US06235928B1
Step 1 Preparation of 2-[(n-octylthio)methyl]-2-propenoic acid.
A mixture of 2-bromomethylacrylic acid (1.0 g, 6.0 mmol), n-octylthiol (1.2 mL, 6.6 mmol), and dimethylformamide (10 mL) is refluxed overnight. The mixture is then transferred to ethyl acetate and extracted with aqueous 10% hydrochloric acid and distilled water. The organic phase is concentrated in vacuo to afford the title compound as a white solid.

reactant | 2-bromomethylacrylic acid | 6.0 mmol, 1.0 g | BrCC(C(=O)O)=C | C4H5BrO2
reactant | n-octylthiol | 6.6 mmol, 1.2 mL | CCCCCCCCS | C8H18S
reactant | dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-[(n-octylthio)methyl]-2-propenoic acid | C(CCCCCCC)SCC(C(=O)O)=C | C12H22O2S
